* PEX produced on Thu Jul  9 10:04:54 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from curr_source.ext - technology: ihp-sg13g2

.subckt curr_source gd vp iref
X0 a_827_n219.t0 a_739_295.t0 iref.t1 gd.t6 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
X1 gd.t12 gd.t9 gd.t11 gd.t10 sg13_lv_nmos ad=0.136p pd=1.48u as=0 ps=0 w=0.4u l=0.6u
X2 iref.t0 a_441_107.t0 vp.t0 gd.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X3 gd.t8 a_827_n219.t1 gd.t7 rppd l=1.7u w=1u
X4 a_441_107.t2 vp.t1 vp.t2 gd.t3 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X5 vp.t4 iref.t2 iref.t3 vp.t3 sg13_lv_pmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X6 a_441_107.t1 a_441_107.t0 gd.t2 gd.t1 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.6u
X7 a_739_295.t1 a_739_295.t0 gd.t5 gd.t4 sg13_lv_nmos ad=0.476p pd=3.48u as=0.476p ps=3.48u w=1.4u l=0.6u
X8 a_739_295.t2 iref.t4 vp.t5 vp.t3 sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.6u
R0 iref.n1 iref.n0 29.9973
R1 iref.n1 iref.t4 24.0005
R2 iref.n2 iref.t2 15.0005
R3 iref.n3 iref.n2 9.0005
R4 iref.n0 iref.t0 6.20378
R5 iref.n0 iref.t1 5.60148
R6 iref.n2 iref.t3 5.01607
R7 iref.n3 iref.n1 0.6605
R8 iref iref.n3 0.4295
R9 vp.n5 vp.n4 18.7081
R10 vp.t5 vp.n2 17.0005
R11 vp.n7 vp.t5 17.0005
R12 vp.t5 vp.n6 17.0005
R13 vp.n9 vp.t4 17.0005
R14 vp.t4 vp.n3 17.0005
R15 vp.n5 vp.t1 15.0005
R16 vp.n1 vp.n0 8.5005
R17 vp.t4 vp.n8 8.48605
R18 vp.n4 vp.t0 6.61647
R19 vp.n4 vp.t2 5.56245
R20 vp.n13 vp.n12 2.80799
R21 vp.n12 vp.t3 2.126
R22 vp.n11 vp.n10 1.79696
R23 vp.t3 vp.n11 1.70305
R24 vp.n6 vp.n5 0.591097
R25 vp.n10 vp.n9 0.492627
R26 vp.n13 vp.n0 0.126463
R27 vp vp.n13 0.0782853
R28 vp.n7 vp.n3 0.0464701
R29 vp.n8 vp.n7 0.0448652
R30 vp.n10 vp.n0 0.04175
R31 vp.n9 vp.n2 0.0333358
R32 vp.n8 vp.n6 0.03091
R33 vp.n3 vp.n2 0.0284104
R34 vp.n11 vp.n1 0.00315277
R35 vp.n12 vp.n1 0.00175
R36 gd.t7 gd.t10 1242.8
R37 gd.t0 gd.t4 1102.88
R38 gd.n9 gd.t7 1037.04
R39 gd.t1 gd.t6 855.967
R40 gd.t10 gd.t1 246.915
R41 gd.t4 gd.t3 164.609
R42 gd.t6 gd.t0 139.918
R43 gd.n3 gd.t12 17.3443
R44 gd.n3 gd.t11 17.3305
R45 gd.n12 gd.n11 17.0005
R46 gd.n4 gd.t9 15.0005
R47 gd.n13 gd.n12 8.59439
R48 gd.n9 gd.n8 8.501
R49 gd.n9 gd.n7 8.501
R50 gd.n9 gd.n6 8.501
R51 gd.n11 gd.n2 8.5005
R52 gd.n11 gd.n5 8.5005
R53 gd.n3 gd.t5 6.84299
R54 gd.n0 gd.t2 6.61656
R55 gd.n10 gd.n9 5.47466
R56 gd.n0 gd.t8 5.0005
R57 gd.n15 gd.n2 4.23547
R58 gd.n13 gd.n5 4.23547
R59 gd.n11 gd.n10 4.10551
R60 gd.n16 gd.n1 2.08773
R61 gd.n14 gd.n4 1.4781
R62 gd.n17 gd.n0 0.590078
R63 gd.n4 gd.n3 0.240596
R64 gd.n16 gd.n15 0.18804
R65 gd.n17 gd.n16 0.0992176
R66 gd.n10 gd.n1 0.0842818
R67 gd.n15 gd.n14 0.0815528
R68 gd.n14 gd.n13 0.0448861
R69 gd gd.n17 0.0115
R70 gd.n12 gd.n6 0.001
R71 gd.n7 gd.n5 0.001
R72 gd.n8 gd.n2 0.001
R73 gd.n8 gd.n1 0.001
R74 gd.n7 gd.n2 0.001
R75 gd.n6 gd.n5 0.001
R76 a_827_n219.t1 a_827_n219.t0 47.9805
R77 a_441_107.t1 a_441_107.n0 6.33368
R78 a_441_107.n0 a_441_107.t0 15.0005
R79 a_441_107.n0 a_441_107.t2 43.5164
R80 a_739_295.t2 a_739_295.n0 6.27106
R81 a_739_295.n0 a_739_295.t1 4.72314
R82 a_739_295.n0 a_739_295.t0 33.2091
C0 vp iref 0.91237f
C1 iref gd 0.84445f
C2 vp gd 0.49146f
C3 a_487_n219# gd 0.41112f $ **FLOATING
C4 a_739_295.t2 gd 0.03772f
C5 a_739_295.n0 gd 0.05649f
C6 a_739_295.t0 gd 0.16187f
C7 a_739_295.t1 gd 0.04392f
C8 a_441_107.t1 gd 0.04738f
C9 a_441_107.t0 gd 0.18324f
C10 a_441_107.n0 gd 0.11562f
C11 a_441_107.t2 gd 0.13362f
C12 a_827_n219.t1 gd 0.10863f
C13 a_827_n219.t0 gd 0.08579f
C14 vp.n0 gd 0.01869f
C15 vp.n1 gd 0.05065f
C16 vp.t0 gd 0.02267f
C17 vp.t2 gd 0.0207f
C18 vp.n4 gd 0.03248f
C19 vp.t1 gd 0.04073f
C20 vp.n5 gd 0.01441f
C21 vp.n6 gd 0.01798f
C22 vp.t5 gd 0.02484f
C23 vp.n7 gd 0.01373f
C24 vp.t4 gd 0.02898f
C25 vp.n9 gd 0.01319f
C26 vp.n10 gd 0.0616f
C27 vp.n11 gd 0.05145f
C28 vp.t3 gd 0.73294f
C29 vp.n12 gd 0.05079f
C30 vp.n13 gd 0.01454f
C31 iref.t1 gd 0.09378f
C32 iref.t0 gd 0.08252f
C33 iref.n0 gd 0.22076f
C34 iref.t4 gd 0.21652f
C35 iref.n1 gd 0.24192f
C36 iref.t2 gd 0.20877f
C37 iref.t3 gd 0.11838f
C38 iref.n2 gd 0.07898f
C39 iref.n3 gd 0.05684f
.ends

